* 19 - GATE TUNNELING vs OXIDE THICKNESS : NMOS + PMOS (lock-step)
.include ptm22lp_param.lib
.param VDD = 0.95
.param WN  = 1u
.param WP  = 2u
.param LL  = 22n

MN  dn  g  0   0   nmos  L={LL}  W={WN}
VdN dn  0  {VDD}

Vsup s  0  {VDD}
MP  dp  g  s   s   pmos  L={LL}  W={WP}
VdP dp  0  0

Vg  g  0  0
.step param TOX 0.8e-9 2.0e-9 0.1e-9
.dc Vg 0 {VDD} 0.05

.meas dc IG_N FIND Ig(MN) AT={VDD}
.meas dc ID_N FIND Id(MN) AT={VDD}
.meas dc IG_P FIND Ig(MP) AT=0
.meas dc ID_P FIND Id(MP) AT=0
.meas dc IGID_N PARAM IG_N/ID_N
.meas dc IGID_P PARAM IG_P/ID_P
.end